US05714457
Preparation of 5,9-didodecyl-4,10-dioxo-5,9-diaza-1,7,13-tridecanetriol
A reactor was charged with 9.5 g (0.02 mole) of 15-hydroxy-13,17-diazanonacosan and 11.7 g (0.13 mole) of γ-butyrolactone, and the contents were heated to 160° C. and kept for 5 hours at this temperature, thereby reacting them. After completion of the reaction, the product was purified by column chromatography (on 500 g of silica gel, developing solvent: chloroform/methanol=97/3), thereby obtaining 6 g (yield: 45%) of the title compound as a viscous liquid.

reactant | 15-hydroxy-13,17-diazanonacosan | 0.02 mole, 9.5 g | OC(CNCCCCCCCCCCCC)CNCCCCCCCCCCCC | C27H58N2O
reactant | γ-butyrolactone | 0.13 mole, 11.7 g | C1(CCCO1)=O | C4H6O2
product | 5,9-didodecyl-4,10-dioxo-5,9-diaza-1,7,13-tridecanetriol | 6 g, yield: 45% | C(CCCCCCCCCCC)N(C(CCCO)=O)CC(CN(C(CCCO)=O)CCCCCCCCCCCC)O | C35H70N2O5
